### PR TITLE
[Merged by Bors] - feat:(CategoryTheory): `C ⥤ D` is enriched over `C ⥤ Type`

### PR DESCRIPTION
**Pull request by mckoen**
This PR shows that `C ⥤ D` is enriched over `C ⥤ Type max v' v u` where `C : Type u` with `[Category.{v} C]` and `[Category.{v'} D]`.  To do this, a hom-object is constructed for functors `F G : C ⥤ D`. Applies in particular to simplicial objects being enriched over simplicial sets.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by grunweg** [comment]
Coming here from issue triage: I've labelled your PR as `awaiting-review` since you are, I understand, looking for review.

To make your PR show up in the review queue, can you do two things? Firstly, add a copyright header to the new file you added (as explained [here](https://leanprover-community.github.io/contribute/doc.html)), and secondly, mark this PR as ready for review. Thanks!

File: Mathlib/CategoryTheory/Functor/FunctorHom.lean [hunk 1]
```diff
@@ -0,0 +1,151 @@
...
+@[ext]
+structure HomObj (A : C ⥤ Type w) where
+  /-- The morphism `F.obj c ⟶ G.obj c` associated with `a : A.obj c`. -/
+  app (c : C) (a : A.obj c) : F.obj c ⟶ G.obj c
+  naturality {c d : C} (f : c ⟶ d) (a : A.obj c) :
+    F.map f ≫ app d (A.map f a) = app c a ≫ G.map f := by aesop_cat
+
+/-- When `F`, `G`, and `A` are all functors `C ⥤ Type w`, then `HomObj F G A` is in
+bijection with `F ⊗ A ⟶ G`. -/
+def HomObjEquiv (F G A : C ⥤ Type w) : (F ⊗ A ⟶ G) ≃ (HomObj F G A) where
```
Comment (adamtopaz) [inline Mathlib/CategoryTheory/Functor/FunctorHom.lean:43]: The naming convention says that this should be `homObjEquiv`. Also, I think it would be more common to put `HomObj F G A` on the left of the equivalence.

File: Mathlib/CategoryTheory/Functor/FunctorHom.lean [hunk 2]
```diff
@@ -0,0 +1,151 @@
...
+lemma congr_app {f g : HomObj F G A} (h : f = g) (X : C)
+    (a : A.obj X) : f.app X a = g.app X a := by subst h; rfl
+
+/-- Given a natural transformation `F ⟶ G`, get a term of `HomObj F G A` by "ignoring" `A`. -/
+@[simps]
+def ofNatTrans (f : F ⟶ G) : HomObj F G A where
+  app X _ := f.app X
+
+/-- The identity `HomObj F F A`. -/
+abbrev id (A : C ⥤ Type w) : HomObj F F A := ofNatTrans (𝟙 F)
```
Comment (adamtopaz) [inline Mathlib/CategoryTheory/Functor/FunctorHom.lean:70]: Can you say why you chose to use an abbrev as opposed to a def with `@[simps!]`?

File: Mathlib/CategoryTheory/Functor/FunctorHom.lean [hunk 3]
```diff
@@ -0,0 +1,151 @@
...
+def map {A' : C ⥤ Type w} (f : A' ⟶ A) (x : HomObj F G A) : HomObj F G A' where
+  app Δ a := x.app Δ (f.app Δ a)
+  naturality {Δ Δ'} φ a := by
+    dsimp
+    rw [← x.naturality φ (f.app Δ a), FunctorToTypes.naturality _ _ f φ a]
+
+end HomObj
+
+/-- The contravariant functor taking `A : C ⥤ Type w` to `HomObj F G A`, i.e. Hom(F ⊗ -, G). -/
+def HomObjFunctor : (C ⥤ Type w)ᵒᵖ ⥤ Type max w v' u where
```
Comment (adamtopaz) [inline Mathlib/CategoryTheory/Functor/FunctorHom.lean:88]: Use `homObjFunctor` to follow the naming conventions.

File: Mathlib/CategoryTheory/Functor/FunctorHom.lean [hunk 4]
```diff
@@ -0,0 +1,151 @@
...
+def functorHom (F G : C ⥤ D) : C ⥤ Type max v' v u := coyoneda.rightOp ⋙ HomObjFunctor.{v} F G
+
+variable {F G} in
+@[ext]
+lemma functorHom_ext {X : C} {x y : (F.functorHom G).obj X}
+    (h : ∀ (Y : C) (f : X ⟶ Y), x.app Y f = y.app Y f) : x = y :=
+  HomObj.ext (by ext; apply h)
+
+/-- The equivalence `HomObj F G A ≃ (A ⟶ F.functorHom G)`. -/
+def functorHomEquiv (A : C ⥤ Type max u v v') : HomObj F G A ≃ (A ⟶ F.functorHom G) where
```
Comment (adamtopaz) [inline Mathlib/CategoryTheory/Functor/FunctorHom.lean:110]: Here as well I would put `A -> F.functorHom G` on the LHS.

File: Mathlib/CategoryTheory/Functor/FunctorHom.lean [hunk 5]
```diff
@@ -0,0 +1,151 @@
...
+  right_inv φ := by
+    ext X a Y f
+    exact (HomObj.congr_app (congr_fun (φ.naturality f) a) Y (𝟙 _)).trans
+      (congr_arg ((φ.app X a).app Y) (by simp))
+
+variable {F G} in
+/-- Morphisms `F ⟶ G` are in bijection with
+morphisms `(𝟙_ (C ⥤ Type max v' v u) ⟶ F.functorHom G)`-/
+@[simps]
+def natTransEquiv : (F ⟶ G) ≃ (𝟙_ (C ⥤ Type max v' v u) ⟶ F.functorHom G) where
```
Comment (adamtopaz) [inline Mathlib/CategoryTheory/Functor/FunctorHom.lean:135]: ... and finally, to say consistent, `... -> F.functorHom G` could go on the left.

File: Mathlib/CategoryTheory/Enriched/FunctorCategory.lean [hunk 6]
```diff
@@ -0,0 +1,73 @@
...
+open CategoryTheory MonoidalCategory Functor
+
+variable {C : Type u} [Category.{v} C] {D : Type u'} [Category.{v'} D]
+
+variable (F G : C ⥤ D)
+
+namespace CategoryTheory.Enriched.Functor
+
+@[simp]
+lemma natTransEquiv_app_app_apply (F G : C ⥤ D) (f : F ⟶ G)
```
Comment (adamtopaz) [inline Mathlib/CategoryTheory/Enriched/FunctorCategory.lean:28]: This lemma (and some of the other lemmas below) should probably go to the other file in this PR, as they're part of the API for the definitions introduced there.

File: Mathlib/CategoryTheory/Functor/FunctorHom.lean [hunk 7]
```diff
@@ -0,0 +1,205 @@
...
+
+@[simp]
+lemma associator_inv_apply (K L M N : C ⥤ D) {X : C}
+    (x : ((K.functorHom L) ⊗ (L.functorHom M) ⊗ (M.functorHom N)).obj X) :
+    (α_ ((K.functorHom L).obj X) ((L.functorHom M).obj X) ((M.functorHom N).obj X)).inv x =
+    ⟨⟨x.1, x.2.1⟩, x.2.2⟩ := rfl
+
+@[simp]
+lemma associator_hom_apply (K L M N : C ⥤ D) {X : C}
+    (x : ( ((K.functorHom L) ⊗ (L.functorHom M)) ⊗ (M.functorHom N)).obj X) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Functor/FunctorHom.lean:196]:
```suggestion
    (x : (((K.functorHom L) ⊗ (L.functorHom M)) ⊗ (M.functorHom N)).obj X) :
```
Otherwise, it looks good to me.

**Comment by semorrison** [comment]
bors merge
